US07915443B2
(S)-N-[methyl(oxo)phenyl-λ6-sulfanylidene]-5-[(2-oxo-2,3-dihydro-1,3-benzoxazol-5-yl)ethynyl]nicotinamide
In a manner similar to that described in Example 443, (S)-N-[methyl(oxo)phenyl-λ6-sulfanylidene]-5-[(trimethylsilyl)ethynyl]nicotinamide (150 mg, 0.42 mmol) and 5-bromo-2-benzoxazolinone (102 mg, 0.46 mmol) were reacted to give the title compound as light yellow solid (71 mg).

reactant | (S)-N-[methyl(oxo)phenyl-λ6-sulfanylidene]-5-[(trimethylsilyl)ethynyl]nicotinamide | 0.42 mmol, 150 mg | C[S@@](=NC(C1=CN=CC(=C1)C#C[Si](C)(C)C)=O)(C1=CC=CC=C1)=O | C18H20N2O2SSi
reactant | 5-bromo-2-benzoxazolinone | 0.46 mmol, 102 mg | BrC=1C=CC2=C(NC(O2)=O)C1 | C7H4BrNO2
product | (S)-N-[methyl(oxo)phenyl-λ6-sulfanylidene]-5-[(2-oxo-2,3-dihydro-1,3-benzoxazol-5-yl)ethynyl]nicotinamide | 71 mg | C[S@@](=NC(C1=CN=CC(=C1)C#CC=1C=CC2=C(NC(O2)=O)C1)=O)(C1=CC=CC=C1)=O | C22H15N3O4S
